US07144899B2
Ethyl carbazate (2.970 g, 28.53 mmol) and p-toluenesulfonic acid monohydrate (4.456 g, 28.53 mmol) were added to a stirred solution of 1-(4-chloro-2-methylphenyl)ethanone (4.81 g, 28.53 mmol) in toluene (50 mL). The mixture was heated to relux in a Dean-Stark apparatus. After 2 h the solution was evaporated and the viscous red-orange oil was purified by flash chromatography on silica (eluting with an EtOAc/hexanes gradient, 5–40% EtOAc). Ethyl (2E)-2-[1-(4-chloro-2-methylphenyl)ethylidene]hydrazine carboxylate was obtained as white crystals. MS m/z=255.6; 1H NMR (CDCl3, 400 MHz) δ 1.34 (t, J=6.8 Hz, 3H), 2.20 (s, 3H), 2.35 (s, 3H), 4.31 (q, J=6.8 Hz, 2H), 7.19 (m, 3H), 7.72 (s, 1H).

reactant | Ethyl carbazate | 28.53 mmol, 2.970 g | C(NN)(=O)OCC | C3H8N2O2
reactant | p-toluenesulfonic acid monohydrate | 28.53 mmol, 4.456 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 1-(4-chloro-2-methylphenyl)ethanone | 28.53 mmol, 4.81 g | ClC1=CC(=C(C=C1)C(C)=O)C | C9H9ClO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl (2E)-2-[1-(4-chloro-2-methylphenyl)ethylidene]hydrazine carboxylate | ClC1=CC(=C(C=C1)\C(\C)=N\NC(=O)OCC)C | C12H15ClN2O2
